US08895547B2
3-Hydroxy-3-methyl-2-phenylbutane-2-sulfonamide
Under inert gas, 330 mg of N-(2,4-dimethoxybenzyl)-1-phenylethanesulfonamide were initially charged in 5 ml of THF, and then, at a temperature of −78° C., 1.41 ml of a 1.6 N butyllithium solution in hexane were added dropwise and the mixture was stirred for 5 minutes. Subsequently, 0.22 ml of acetone was added, the mixture was stirred briefly and, after the addition of 1 ml of trifluoroacetic acid, the reaction solution was allowed to come to room temperature. The reaction mixture was admixed with 50 ml of water and 50 ml of ethyl acetate, and the aqueous phase was reextracted with 50 ml of ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation, and the residue was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (113 mg) with a molecular weight of 243.3 g/mol (C11H7NO3S).

reactant | N-(2,4-dimethoxybenzyl)-1-phenylethanesulfonamide | 330 mg | COC1=C(CNS(=O)(=O)C(C)C2=CC=CC=C2)C=CC(=C1)OC | C17H21NO4S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 0.22 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-Hydroxy-3-methyl-2-phenylbutane-2-sulfonamide | 113 mg | OC(C(C)(S(=O)(=O)N)C1=CC=CC=C1)(C)C | C11H17NO3S
